US04420433
2 g of palladium/activated carbon (5% by weight of Pd) and 350 g of toluene are heated for 1 hour at 75° C. in a three-necked flask equipped with a gas inlet tube, a reflux condenser and a stirrer while water gas (CO:H2 =1) is being passed through. 70.0 g of 3-bromo-4-fluorobenzoyl chloride prepared as in Example 3 were then added and hydrogen was passed in instead of water gas. The temperature was increased to 85° C. After 4 hours 95% of the amount of hydrogen chloride expected had been split off. After cooling down, the reaction mixture was filtered and the filtrate was distilled off. 53 g of 3-bromo-4-fluorobenzaldehyde, boiling point 112° C./20 mbars, nD30 1.5685 and melting point: 30° C., were obtained.

reactant | toluene | 350 g | C1(=CC=CC=C1)C | C7H8
reactant | 3-bromo-4-fluorobenzoyl chloride | 70.0 g | BrC=1C=C(C(=O)Cl)C=CC1F | C7H3BrClFO
reactant | hydrogen | [H][H] | H2
catalyst | palladium | 2 g | [Pd] | Pd
solvent | water | O | H2O
product | 3-bromo-4-fluorobenzaldehyde | 53 g, Yield: 86.8% | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
